US07414060B2
Step 2: 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-hydroxymethyl-thiazol-2-yl)-amide:
To a solution of 40 mg (0.088 mmol) of 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [4-(tert-butyl-dimethyl-silanyloxymethyl)-thiazol-2-yl]-amide in 1 ml of methylene chloride was added 200 mg (1.75 mmol, 20.0 equiv.) of Trifluoroacetic acid. After stirring for 2 h at room temperature, saturated sodium carbonate solution was added, and the pH was adjusted to 8. The aqueous phase was extracted three times with methylene chloride. The combined organic phases were dried over magnesium sulfate, filtered and concentrated in vaccuo. The residue (28 mg, yellow solid) was triturated with Diisopropyl ether, filtered and dried to yield the title compound (17 mg, 57%) as a light yellow solid, MS (ISP): m/e=343.1 (M+H+).

reactant | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [4-(tert-butyl-dimethyl-silanyloxymethyl)-thiazol-2-yl]-amide | 0.088 mmol, 40 mg | C(C)(C)(C)[SiH2]OC(C=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C)(C)C | C21H28N6O2SSi
reactant | Trifluoroacetic acid | 1.75 mmol, 200 mg, 20.0 equiv. | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-hydroxymethyl-thiazol-2-yl)-amide | 17 mg, 57% | OCC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C | C15H14N6O2S
